US08247430B2
3,9,9-Trimethyl-6-nitro-4,9-dihydro-3H-3-aza-fluorene
4-[1-(2-Bromo-4-nitro-phenyl)-1-methyl-ethyl]-1-methyl-1,2,3,6-tetrahydro-pyridine (9 g), Pd(OAc)2 (900 mg), and DIEA (15 mL) was dissolved in DMF (300 mL), and heated to 80° C. overnight. Solvents were removed in vacuo. The residue was partitioned between CH2Cl2/NaHCO3(sat, aq.). The CH2Cl2 layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified via flash chromatography on silica to give the desired compound. (MS: M+H=257)

reactant | 4-[1-(2-Bromo-4-nitro-phenyl)-1-methyl-ethyl]-1-methyl-1,2,3,6-tetrahydro-pyridine | 9 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C=1CCN(CC1)C | C15H19BrN2O2
reactant | DIEA | 15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 900 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3,9,9-Trimethyl-6-nitro-4,9-dihydro-3H-3-aza-fluorene | CN1C=CC=2C(C3=CC=C(C=C3C2C1)[N+](=O)[O-])(C)C | C15H16N2O2
